US07820665B2
To a solution of 5-bromopyridin-2-amine (10.4 g, 60 mmol, Aldrich, St. Louis, Mo.) in pyridine (50 mL) was added p-toluenesulfonyl chloride (13 g, 66 mmol). The mixture was heated to 85° C. for 12 h. The solvent was removed under reduced pressure and the residue was taken up in 1 L of water and stirred for 1.5 h. The solid was collected by filtration and recrystallized from EtOAc to afford N-(5-bromopyridin-2(1H)-ylidene)-4-methylbenzenesulfonamide (11.3 g, 57% yield) as a white powder. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.23 (s, 1H), 8.27 (d, J=2.5 Hz, 1H), 7.89 (dd, J=8.8 Hz, 2.4 Hz, 1H), 7.79 (d, J=8.2 Hz, 2H), 7.37 (d, J=8.2 Hz, 2H), 7.03 (d, J=8.8 Hz, 1H), 2.35 (s, 3H).

reactant | 5-bromopyridin-2-amine | 60 mmol, 10.4 g | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | p-toluenesulfonyl chloride | 66 mmol, 13 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-bromopyridin-2(1H)-ylidene)-4-methylbenzenesulfonamide | 11.3 g, 57% yield | BrC=1C=CC(NC1)=NS(=O)(=O)C1=CC=C(C=C1)C | C12H11BrN2O2S
